US05071876
Preparation of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-diethylphenyl)propanamide
The title compound was prepared by the method of Example 4 from N-(2,6-diethylphenyl)-2-propenamide (1.01 g, 0.005 mole), 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (1.19 g, 0.005 mole) and triethylamine (0.5 ml) in methanol, m.p. ca. 150.5°-151.5° C.

reactant | N-(2,6-diethylphenyl)-2-propenamide | 0.005 mole, 1.01 g | C(C)C1=C(C(=CC=C1)CC)NC(C=C)=O | C13H17NO
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.005 mole, 1.19 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2,6-diethylphenyl)propanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NC1=C(C=CC=C1CC)CC | C27H39NO2S
